US07709466B2
4-(3-Bromo-1H-indol-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-2H-pyridazin-3-one
30 mg of 4-(1H-Indol-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-2H-pyridazin-3-one is dissolved in 4 ml of acetone and 22 mg of N-bromosuccinimide is added. The solution is stirred at RT for 20 min and the product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 14 mg. LC-MS (ES+) 370/372 (M+H)+.

reactant | 4-(1H-Indol-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-2H-pyridazin-3-one | 30 mg | N1C(=CC2=CC=CC=C12)C=1C(NN=C(C1)C=1C=NN(C1)C)=O | C16H13N5O
reactant | N-bromosuccinimide | 22 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 4-(3-Bromo-1H-indol-2-yl)-6-(1-methyl-1H-pyrazol-4-yl)-2H-pyridazin-3-one | BrC1=C(NC2=CC=CC=C12)C=1C(NN=C(C1)C=1C=NN(C1)C)=O | C16H12BrN5O
